US07951815B2
To a solution of 8-(2-ethylbutyryl)-3-(S)-(2-methylsulfanylethyl)-1,4,8-triazaspiro[4,5]decan-2-one (420 mg, 1.3 mmol) in 20 mL of dry THF there was added sodium hydride (50 mg, 1.9 mmol) at 0° C. and under a blanket of nitrogen. Following stirring over a period of 1 h at 0° C., benzyl chloride (140 mg, 1.4 mmol) was slowly added dropwise and the mixture was then heated under reflux over a period of 24 h. Following the addition of an aqueous saturated NH4Cl solution (15 mL), the reaction mixture was isolated by filtration and the filtrate was extracted with EE (3×10 mL), and the combined organic phases were dried over Na2SO4. Following removal, by distillation, of the solvent, there was obtained the crude product as a yellow oil. Further purification was carried out by column chromatography. The product 1-benzyl-8-(2-ethylbutyryl)-3-(S)-(2-methylsulfanylethyl)-1,4,8-triazaspiro[4,5]decan-2-one was obtained in a yield of 239 mg (45%).

reactant | 8-(2-ethylbutyryl)-3-(S)-(2-methylsulfanylethyl)-1,4,8-triazaspiro[4,5]decan-2-one | 1.3 mmol, 420 mg | C(C)C(C(=O)N1CCC2(N[C@H](C(N2)=O)CCSC)CC1)CC | C16H29N3O2S
reactant | sodium hydride | 1.9 mmol, 50 mg | [H-].[Na+]
reactant | benzyl chloride | 1.4 mmol, 140 mg | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | NH4Cl | 15 mL | [NH4+].[Cl-]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 1-benzyl-8-(2-ethylbutyryl)-3-(S)-(2-methylsulfanylethyl)-1,4,8-triazaspiro[4,5]decan-2-one | C(C1=CC=CC=C1)N1C([C@@H](NC12CCN(CC2)C(C(CC)CC)=O)CCSC)=O | C23H35N3O2S
